US20010056090A1
Synthesis of 3(R)-(2-Amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester
The solution of 3(R)-(2-Nitro-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (134 mg) and Pd-C (10%, 150 mg) in MeOH (30 ml) was stirred under H2 (1 atm) for 24 hrs. After filtration through Celite, the filtrate was concentrated to give colorless oil (96.8 mg, 80%). 1H-NMR (300 MHz, CDCl3) δ 6.80 (m, 5H), 4.10 (m, 1H), 3.78 (m, 1H), 3.39 (m, 3H), 3.15 (m, 1H), 2.95 (m, 1H), 2.08 (m, 1H), 1.80 (m, 1H), 1.60 (m 3H), 1.50 (s, 9H) ppm; LRMS (calculated for C16H21N3O2-BOC)+ 191, found (M-BOC)+ 191.

reactant | 3(R)-(2-Nitro-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 134 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C16H23N3O4
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd-C | 150 mg | [Pd] | Pd
product | 3(R)-(2-Amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 96.8 mg, 80% | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=C(C=CC=C1)N | C16H25N3O2
